Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
God is sending me special messages.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ yo F with PMH Panhypopituitarism ___ ___ 
syndrome with recent hospitilization for adrenal crisis 
(___) thought to be ___ Influenza A infection  who is 
brought in by her family due to 5 days of increasing confusion, 
paranoid thoughts, saying things that don't make sense, and 
hyper-religiosity. Per family, symptoms started abruptly earlier 
this week. She has no prior hx of psychiatric illness or 
substance abuse. During her prior admission, she did receive a 
burst of hydrocortisone for adrenal crisis but has returned back 
to prior prednisone 3mg dose for over a week. She did not have 
any AMS during prednisone burst. She has appeared well and has 
not complained of any fevers, abdominal pain, n/v, diarrhea, CP, 
SOB. She has been taking levothyroxine and prednisone up until 
this morning. CT and LP during prior hospitilization was 
negative including cultures.
 
In the ED, initial vitals were 98.0 84 146/74 16 100%. Exam  was 
non-focal, normal reflexes with no meningismus. Labs were all 
within normal limits. A CT scan and LP were normal. A ___ 
was placed.

On arrival to the floor, she is feeling well and has no 
concerns. She is aware that she was brought in by family because 
she does not agree with her views. She is also congisant that 
these symptoms began this past wednesay. She feels lord is 
talking to her in a special way but she isnt "hearing voices." 
She isnt hallucinating but occasionally sees bright lights (not 
photophobia).She denies any recent stressors but does state the 
boy she cares for has a series illness and she is praying for 
him (unclear if this is true). She denies any SI/HI. She says 
she is  feeling well and has no concerns. Of note, her husband 
has been away for last 10 days.
 
Past Medical History:
Panhypopituitarism secondary to ___ syndrome in the setting 
of a post-partum hemorrhage
Remote History of Zoster

 
Social History:
___
Family History:
(Per OMR, verified with patient)
Mother with hypothyroidism, Father with ___ 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
-------
Vitals 97.9 140/81 81 18  98 ra
GENERAL: NAD, slightly blunted affect but appropriate  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
Psych: no pressured speech, clear thoughts, however cant 
articulate all thoughts that have entered her head and express 
why she has done some of the things she has done 

DISCHARGE PHYSICAL EXAM:
-----
98.6 127/73 65 16 99/RA
GENERAL: NAD, slightly blunted affect but appropriate  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
Psych: no pressured speech, clear thoughts, however cant 
articulate all thoughts that have entered her head and express 
why she has done some of the things she has done 

 
Pertinent Results:
ADMISSION LABS:
-----
___ 04:10PM BLOOD WBC-7.9 RBC-4.13* Hgb-13.3 Hct-40.0 
MCV-97 MCH-32.2* MCHC-33.2 RDW-13.2 Plt ___
___ 04:10PM BLOOD Neuts-75.0* Lymphs-17.6* Monos-6.0 
Eos-0.5 Baso-0.8
___ 04:10PM BLOOD Glucose-141* UreaN-19 Creat-0.9 Na-139 
K-3.3 Cl-99 HCO3-24 AnGap-19
___ 06:30AM BLOOD Free T4-0.93
___ 04:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:50PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 03:50PM URINE RBC-3* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-1

CSF:

___ 08:40PM CEREBROSPINAL FLUID (CSF)  PROTEIN-21 
GLUCOSE-77
___ 08:40PM CEREBROSPINAL FLUID (CSF)  WBC-1 RBC-1* POLYS-8 
___ MONOS-6

IMAGING:
------
Final Report
 
FINDINGS:  There is no evidence of acute intracranial 
hemorrhage, mass, mass
effect or large territorial infarction.  Ventricles and sulci 
are normal in
size and configuration.  The basilar cisterns are patent and 
there is
otherwise good preservation of gray-white matter 
differentiation.
 
No acute fracture is identified.  The visualized paranasal 
sinuses, mastoid
air cells and middle ear cavities are clear.
 
The globes are unremarkable.
 
IMPRESSION:  
 
No acute intracranial abnormalities identified.

 
Brief Hospital Course:
___ PMH Panhypopituitarism ___ ___ syndrome with recent 
hospitilization for adrenal crisis ___ Influenza A 
infection who presented with steroid-induced psychosis.

ACUTE ISSUES:
------

#ACUTE ONSET PSYCHOSIS: RESOLVING. Characterized by 
hyper-religiosity, thoughts of grandeur, and paranoia. Fully 
alert and oriented though her thought content is not normal. She 
has no other systemic manifestations of thyroid abnormalities or 
adrenal insuffiency. Psychiatry was consulted, who recommended  
Zyprex 2.5mg QHS. Patient has a very supportive family who 
corroborate slow improvement.

CHRONIC ISSUES:
-------

#Panhypopituitarism ___ ___ syndrome: Plan to continue home 
prednisone and synthroid for now.

TRANSITIONAL ISSUES:
--------

# PATIENT SHOULD CLEAR WITH PCP BEFORE SHE RETURNS TO WORK AS A 
___. PATIENT IS AWARE.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. PredniSONE 3 mg PO DAILY 
Tapered dose - DOWN 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. PredniSONE 3 mg PO DAILY 
Tapered dose - DOWN 
3. OLANZapine 2.5 mg PO HS 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
------
STEROID-INDUCED PSYCHOSIS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted for 
changes in your thinking due to sleep deprivation and from the 
necessary high doses of steroids you were given during your last 
admission for influenza. You were given a medication, 
olanzapine, to help you sleep and relieve your intrusive 
thoughts.  Your symptoms improved and you were discharged home 
with a short course of olanzapine, which you should use when you 
receive high dose ("stress dose") steroids in the future.
 
Followup Instructions:
___